US07977372B2
(R,R)-N,N′-Dibenzyl-cyclohexane-1,2-diamine
Benzaldehyde (12.72 g, 120 mmol) was added dropwise over a period of 2 minutes to a solution of (R,R)-cyclohexane-1,2-diamine (6.84 g, 60 mmol) in 100 mL of anhydrous MeOH at refluxing temperature. After stirring for 30 min, the solution was allowed to cool to room temperature and NaBH3CN (4.8 g, 126 mmol) was added in portions. After the vigorous effervescence subsided down, the mixture was brought to refluxing and stirred for 20 min. The reaction was quenched by water and extracted with dichloromethane. The organic phase was dried and concentrated to give 16.95 g of crude product (yield 96%) which was used in the next step reaction without further purification.

reactant | Benzaldehyde | 120 mmol, 12.72 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | (R,R)-cyclohexane-1,2-diamine | 60 mmol, 6.84 g | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | NaBH3CN | 126 mmol, 4.8 g | [BH3-]C#N.[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | (R,R)-N,N′-Dibenzyl-cyclohexane-1,2-diamine | 16.95 g, yield 96% | C(C1=CC=CC=C1)N[C@H]1[C@@H](CCCC1)NCC1=CC=CC=C1 | C20H26N2
